US07776897B2
1-Anilinocyclopentanecarboxylic acid hydrochloride and N-[3-(dimethylaminopropyl)]-N′-ethylcarbodiimide hydrochloride, 1H-1,2,3-benzotriazol-1-ol hydrate, tert-butyl hydrazinecarboxylate, N,N-diethylisopropylamine were stirred in DMF at room temperature to obtain tert-butyl 2-[(1-anilinocyclopentyl)carbonyl]hydrazinecarboxylate.

reactant | 1-Anilinocyclopentanecarboxylic acid hydrochloride | Cl.N(C1=CC=CC=C1)C1(CCCC1)C(=O)O
reactant | 1H-1,2,3-benzotriazol-1-ol hydrate | O.N1(N=NC2=C1C=CC=C2)O
reactant | tert-butyl hydrazinecarboxylate | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | N,N-diethylisopropylamine | C(C)N(CC)C(C)C | C7H17N
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl 2-[(1-anilinocyclopentyl)carbonyl]hydrazinecarboxylate | N(C1=CC=CC=C1)C1(CCCC1)C(=O)NNC(=O)OC(C)(C)C | C17H25N3O3
